US06242470B1
N-(2,3-Dimethylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (0.2 g) and 2,3-dimethylaniline (0.11 g) to give the title compound as a white solid (0.034 g).

reactant | 1-adamantaneacetyl chloride | 0.2 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 2,3-dimethylaniline | 0.11 g | CC1=C(N)C=CC=C1C | C8H11N
product | N-(2,3-Dimethylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 0.034 g | CC1=C(C=CC=C1C)NC(CC12CC3CC(CC(C1)C3)C2)=O | C20H27NO
